US07713979B2
Using the procedure to synthesize Example 1 and using reagents 1-(cis-2-methyl-cyclohexyl)-pyrrolidin-2-one (Preparation 32) (1.0 g, 5.52 mmol) and 2-(bromomethyl)-1,3-dichloro-5-methoxybenzene (1.24 g, 5.52 mmol) gives 1.29 g (63%) 3-(2,6-Dichloro-4-methoxybenzyl)-1-(cis-2-methylcyclohexyl)pyrrolidin-2-one as a white solid.

reactant | 1-(cis-2-methyl-cyclohexyl)-pyrrolidin-2-one | 5.52 mmol, 1.0 g | C[C@@H]1[C@@H](CCCC1)N1C(CCC1)=O | C11H19NO
reactant | 2-(bromomethyl)-1,3-dichloro-5-methoxybenzene | 5.52 mmol, 1.24 g | BrCC1=C(C=C(C=C1Cl)OC)Cl | C8H7BrCl2O
product | 3-(2,6-Dichloro-4-methoxybenzyl)-1-(cis-2-methylcyclohexyl)pyrrolidin-2-one | 1.29 g, 63% | ClC1=C(CC2C(N(CC2)[C@H]2[C@H](CCCC2)C)=O)C(=CC(=C1)OC)Cl | C19H25Cl2NO2
